US09388161B2
A mixture of (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.025 g, 0.088 mmol), 2-chloroquinazoline (0.017 g, 0.106 mmol), and potassium carbonate (0.024 g, 0.176 mmol) in N,N-dimethylformamide (1.0 mL) was stirred in the microwave at 100° C. for 4 h. The reaction mixture was cooled to room temperature and water was added. The mixture was extracted with dichloromethane and the combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (S)-1-(6-bromo-2-methyl-5-(quinazolin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.023 g, 63%). MS (ESI, pos. ion) m/z 412, 414 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.088 mmol, 0.025 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | 2-chloroquinazoline | 0.106 mmol, 0.017 g | ClC1=NC2=CC=CC=C2C=N1 | C8H5ClN2
reactant | potassium carbonate | 0.176 mmol, 0.024 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (S)-1-(6-bromo-2-methyl-5-(quinazolin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.023 g, 63% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC2=CC=CC=C2C=N1 | C20H18BrN3O2
